US05079363
(2) (1-tert.butoxycarbonyl 5-aza 2-indolyl) (3-diethylaminocarbonyl 2-methoxy 4-pyridyl)methanol
Starting from 1-tert.butoxycarbonyl 2-lithio 5-aza indole and 3-diethylaminocarbonyl 4-formyl 2-methoxy pyridine as reagent with electrophilic character, prepared according to paragraph b (stabilization reagent: tetramethylethylenediamine; amine: 2,2,6,6-tetramethylpiperidine).

reactant | 1-tert.butoxycarbonyl 2-lithio 5-aza indole | C(C)(C)(C)OC(=O)N1C(=CC2=CN=CC=C12)[Li]
reactant | 3-diethylaminocarbonyl 4-formyl 2-methoxy pyridine | C(C)N(C(=O)C=1C(=NC=CC1C=O)OC)CC | C12H16N2O3
reactant | tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
reactant | 2,2,6,6-tetramethylpiperidine | CC1(NC(CCC1)(C)C)C | C9H19N
product | (1-tert.butoxycarbonyl 5-aza 2-indolyl) (3-diethylaminocarbonyl 2-methoxy 4-pyridyl)methanol | C(C)(C)(C)OC(=O)N1C(=CC2=CN=CC=C12)C(O)C1=C(C(=NC=C1)OC)C(=O)N(CC)CC | C24H30N4O5
